US05102890
The procedure is as in Example 7, but starting with 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone (6.8 g) in methylene chloride (100 cc), triethylamine (10.1 g), 5-methylhexanoyl chloride (6.4 g) and 4-dimethylaminopyridine (50 mg). The residue obtained after treatment is purified by chromatography on silica gel (0.063-0.2 mm; 100 g) contained in a column 2.8 cm in diameter (eluant: methylene chloride), collecting 30-cc fractions. Fractions 19 to 94 are combined and concentrated to dryness under reduced pressure (2.7 kPa). After the residue obtained has been recrystallized in heptane (75 cc), 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 5-methylhexanoate (5.6 g), m.p. 105° C., is obtained.

reactant | 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone | 6.8 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C17H13N3O3
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 5-methylhexanoyl chloride | 6.4 g | CC(CCCC(=O)Cl)C | C7H13ClO
solvent | methylene chloride | 100 cc | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 5-methylhexanoate | 5.6 g | CC(CCCC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)OC)C | C24H25N3O4
